US07579341B2
(S)-1-(1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-piperidin-4-yl)-4-methyl-piperazine-2-carboxylic acid
0.5 mL (1.00 mmol) 2 M LiOH solution were added to 80.0 mg (0.10 mmol) ethyl (S)-1-(1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-piperidin-4-yl)-4-methyl-piperazine-2-carboxylate in 1 mL THF and the reaction mixture was stirred for 20 h at RT. This was purified by HPLC without working up; the fractions containing the product were combined and lyophilised.

reactant | LiOH | 1.00 mmol, 2 M, 0.5 mL | [Li+].[OH-]
reactant | ethyl (S)-1-(1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-piperidin-4-yl)-4-methyl-piperazine-2-carboxylate | 0.10 mmol, 80.0 mg | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1CCC(CC1)N1[C@@H](CN(CC1)C)C(=O)OCC)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C38H49ClF3N7O6
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-1-(1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-piperidin-4-yl)-4-methyl-piperazine-2-carboxylic acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1CCC(CC1)N1[C@@H](CN(CC1)C)C(=O)O)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C36H45ClF3N7O6
